US07579356B2
5-(2-chloro-6-methyl-phenyl)-4-oxo-4,5-dihydro-3H-1-thia-3,5,6,8-tetraaza-acenaphthylene-2-carboxylic acid (4-morpholin-4-ylmethyl-phenyl)-amide (Cpd 146)
Using the procedure of Example 1, 2-chloro-6-methyl-phenylamine Compound 48a was used in place of 3-chloro-4-fluoro-phenylamine Compound 1e to prepare 4-chloro-6-(2-chloro-6-methyl-phenylamino)-pyrimidine-5-carbonitrile Compound 48b. Using the procedure of Example 3, Compound 48b was used in place of 4-chloro-6-(2-chloro-4-fluoro-phenylamino)-pyrimidine-5-carbonitrile Compound 3b to prepare 5-(2-chloro-6-methyl-phenyl)-4-oxo-4,5-dihydro-3H-1-thia-3,5,6,8-tetraaza-acenaphthylene-2-carboxylic acid Compound 4&. MS 361, 363 (MH+). Using the procedure of Example 1, Compound 48c was used in place of Compound 1 and 4-morpholin-4-ylmethyl-phenylamine Compound 3e was used in place of 4-piperidin-1-ylmethyl-phenylamine Compound 1k to prepare Compound 146. MS 535, 537 (MH+).

reactant | 2-chloro-6-methyl-phenylamine | ClC1=C(C(=CC=C1)C)N | C7H8ClN
reactant | 4-chloro-6-(2-chloro-6-methyl-phenylamino)-pyrimidine-5-carbonitrile | ClC1=NC=NC(=C1C#N)NC1=C(C=CC=C1C)Cl | C12H8Cl2N4
reactant | 5-(2-chloro-6-methyl-phenyl)-4-oxo-4,5-dihydro-3H-1-thia-3,5,6,8-tetraaza-acenaphthylene-2-carboxylic acid | ClC1=C(C(=CC=C1)C)N1C(NC2=C(SC=3N=CN=C1C32)C(=O)O)=O | C15H9ClN4O3S
reactant | 4-morpholin-4-ylmethyl-phenylamine | N1(CCOCC1)CC1=CC=C(C=C1)N | C11H16N2O
product | 5-(2-chloro-6-methyl-phenyl)-4-oxo-4,5-dihydro-3H-1-thia-3,5,6,8-tetraaza-acenaphthylene-2-carboxylic acid (4-morpholin-4-ylmethyl-phenyl)-amide | N1(CCOCC1)CC1=CC=C(C=C1)NC(=O)C=1SC=2N=CN=C3N(C(NC1C23)=O)C2=C(C=CC=C2C)Cl | C26H23ClN6O3S
